US04472305
Condensation of BocGlyOPFP (7.2 g.) and HLeu-MetNH2 hydrochloride salt (Example 1, 10.2 g.) by the actived ester method gave BocGly-Leu-MetNH2 in 73% yield. De-t-butoxycarbonylation of BocGly-Leu-MetNH2 (9.38 g.) using hydrogen chloride in acetic acid gave HGly-Leu-MetNH2 in 77% yield. Condensation of BocD, LBpaOH (1.6 g.) and H-Gly-Leu-MetNH2 (2.13 g.) by the mixed anhydride method using diphenylphosphinyl chloride gave BocD,LBpa-Gly-Leu-MetNH2, de-t-butoxycarbonylation of which (1.1 g.) using hydrogen chloride in acetic acid gave HD, LBpa-Gly-Leu-MetNH2 in 30% overall yield.

reactant | BocGly-Leu-MetNH2 | 9.38 g | N(CC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N)C(=O)OC(C)(C)C | C18H34N4O5S
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | HGly-Leu-MetNH2 | 77% yield | NCC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCSC)C(=O)N | C13H26N4O3S
